US07157487B2
To methyl (3-chloro-4-((1-methyl-3-indazolylcarbonyl)amino)phenyl)acetate (1.08 g, 3.02 mmol) were added THF (30 ml) and 0.25N NaOH (18.1 ml, 4.53 mmol) and the resulting mixture was stirred at room temperature for 16 hours. The reaction mixture was poured in 1N HCl (5.0 ml). The crystals thus precipitated were collected by filtration under reduced pressure, washed with water, and dried under reduced pressure to give (3-chloro-4-((1-methyl-3-indazolylcarbonyl)amino)phenyl)acetic acid (0.99 g, 95%) as a brown solid.

reactant | methyl (3-chloro-4-((1-methyl-3-indazolylcarbonyl)amino)phenyl)acetate | 3.02 mmol, 1.08 g | ClC=1C=C(C=CC1NC(=O)C1=NN(C2=CC=CC=C12)C)CC(=O)OC | C18H16ClN3O3
reactant | THF | 30 ml | C1CCOC1 | C4H8O
reactant | NaOH | 4.53 mmol, 0.25N, 18.1 ml | [OH-].[Na+]
solvent | HCl | 1N, 5.0 ml | Cl | ClH
product | (3-chloro-4-((1-methyl-3-indazolylcarbonyl)amino)phenyl)acetic acid | 0.99 g, 95% | ClC=1C=C(C=CC1NC(=O)C1=NN(C2=CC=CC=C12)C)CC(=O)O | C17H14ClN3O3
